US09334278B2
To a solution of N-tert-butyl-2-(2-methylpyrimidin-5-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (78 mg, 171 μmol) in dichloromethane (2.5 mL) was added trifluoroacetic acid (390 mg, 264 μL, 3.42 mmol) and the mixture stirred at room temperature for 16 h. The reaction mixture was concentrated in vacuo and the residue obtained diluted with dichloromethane (2.5 mL), methanol (1.2 mL) and ammonium hydroxide (0.35 mL) and the mixture stirred at room temperature for 1 h. The reaction mixture was concentrated in vacuo then triturated with water. The solid was collected by filtration and washed with water and ether to give N-tert-butyl-2-(2-methylpyrimidin-5-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (43 mg, 132 μmol, 77%) as a brown solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.31 (s, 1H), 9.57 (s, 1H), 8.90 (s, 2H), 7.96 (d, J=3.3, 1H), 7.92 (s, 1H), 7.53 (s, 1H), 2.46 (s, 3H), 1.32 (s, 9H); MS (EI/CI) m/z: 326.1 [M+H].

reactant | N-tert-butyl-2-(2-methylpyrimidin-5-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 171 μmol, 78 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC=2C=NC(=NC2)C)COCC[Si](C)(C)C | C22H33N7O2Si
reactant | trifluoroacetic acid | 3.42 mmol, 264 μL, 390 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | methanol | 1.2 mL | CO | CH4O
solvent | ammonium hydroxide | 0.35 mL | [OH-].[NH4+]
product | N-tert-butyl-2-(2-methylpyrimidin-5-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 132 μmol, 43 mg, 77% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC=2C=NC(=NC2)C | C16H19N7O
